* C:\Users\Aditya\eSim-Workspace\Flip_Flops\Flip_Flops.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/03/24 12:03:16

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
v1  D GND pulse		
v2  clk GND pulse		
v3  PRE GND DC		
v4  CLR GND DC		
R1  Q GND 1000k		
R2  Qb GND 1000k		
v5  VCC GND DC		
X1  clk PRE D CLR GND VCC Q Qb D_Flip_Flop		

.end
